* models for LLC, Boost

* switch 2
.subckt sw2 in+ in- out+ out-
.model swn2 VSWITCH(Ron=1 Roff=1e6 Von=2.6 Voff=2.4)
sn out+ out- in+ in- swn2
.ends

* switch 1
.subckt sw1 in+ in- out+ out-
.model swn VSWITCH(Ron=1m Roff=1e6 Von=2.6 Voff=2.4)
sn out+ out- in+ in- swn
.ends

.subckt L1L2L3 p1 p2 s1 s2 s3
Rp p1 p11 1m
Lp1 p11 p2 135u
Rs2 s1 s11 1m
Ls2 s11 s2 31u
Rs3 s2 s22 1m
Ls3 s22 s3 31u
K1 Lp1 Ls2 0.99
K2 Ls2 Ls3 0.99
K3 Lp1 Ls3 0.99
.ends
